US07148245B2
(i) 7-Bromo-4,4-dimethylthiochroman
25.00 g (97.0 mmol) of 1-bromo-3-(3-methylbut-2-enylsulphonyl)benzene, 200 ml of toluene and 27.75 g (146.0 mmol) of para-toluenesulphonic acid are introduced into a three-necked flask. The reaction medium is refluxed for four hours and evaporated to dryness. The residue is taken up in aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with heptane. 22.57 g (90%) of the expected compound are obtained in the form of a yellow oil.

reactant | 1-bromo-3-(3-methylbut-2-enylsulphonyl)benzene | 97.0 mmol, 25.00 g | BrC1=CC(=CC=C1)S(=O)(=O)CC=C(C)C | C11H13BrO2S
reactant | para-toluenesulphonic acid | 146.0 mmol, 27.75 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Bromo-4,4-dimethylthiochroman | 22.57 g, 90% | BrC1=CC=C2C(CCSC2=C1)(C)C | C11H13BrS
